US09422331B2
To a rt solution of tert-butyl(S)-1-((3S,4S)-7-cyano-1-((3-cyclopropylquinolin-4-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (70 mg, 120 μmol) in CH2Cl2 (801 μl) was added pyridine (29.4 μl, 360 μmol), followed by acetyl chloride (12.8 μl, 180 μmol), dropwise. The reaction was stirred at rt for 22 h, then diluted with H2O and extracted with CH2Cl2. The combined organic layers were washed with sat. aq. NaHCO3 and sat. aq. NaCl, dried over Na2SO4, filtered, and concentrated. The crude material was purified by reverse phase preparative HPLC then flash chromatography to provide tert-butyl(S)-1-((3S,4S)-5-acetyl-7-cyano-1-((3-cyclopropylquinolin-4-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (26.8 mg, 36%) as a white solid. MS m/z 625 (MH)+.

reactant | tert-butyl(S)-1-((3S,4S)-7-cyano-1-((3-cyclopropylquinolin-4-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 120 μmol, 70 mg | C(#N)C1=CC2=C(N(C([C@H]([C@@H](N2)C)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)=O)CC2=C(C=NC3=CC=CC=C23)C2CC2)C=C1 | C33H38N6O4
reactant | pyridine | 360 μmol, 29.4 μl | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 180 μmol, 12.8 μl | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 801 μl | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | tert-butyl(S)-1-((3S,4S)-5-acetyl-7-cyano-1-((3-cyclopropylquinolin-4-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 26.8 mg, 36% | C(C)(=O)N1C2=C(N(C([C@H]([C@@H]1C)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)=O)CC1=C(C=NC3=CC=CC=C13)C1CC1)C=CC(=C2)C#N | C35H40N6O5
